US07414060B2
6-Methyl-3-(pyridin-3-ylamino)-pyridine-2-carboxylic acid (5-fluoro-pyridin-2-yl)-amide
The title compound, was prepared in accordance with the general method of example 4, step 2 using 2-amino-5-fluoropyridine instead of 2-chloro-4-aminopyridine to yield [2-(5-Fluoro-pyridin-2-ylcarbamoyl)-6-methyl-pyridin-3-yl]-carbamic acid tert-butyl ester as a white solid. MS (ISP): m/e=347.0 (M+H+). Boc-deprotection as described in example 4 step 3 yielded 3-Amino-6-methyl-pyridine-2-carboxylic acid (5-fluoro-pyridin-2-yl)-amide as a light yellow solid, MS (ISP): m/e=247.3 (M+H+). Palladium catalysed arylation with 3-Bromopyridine as described in example 4 step 4 yielded the final product as a light yellow solid, MS (ISP): m/e=324.3 (M+H+).

reactant | 3-Amino-6-methyl-pyridine-2-carboxylic acid (5-fluoro-pyridin-2-yl)-amide | FC=1C=CC(=NC1)NC(=O)C1=NC(=CC=C1N)C | C12H11FN4O
reactant | 3-Bromopyridine | BrC=1C=NC=CC1 | C5H4BrN
catalyst | Palladium | [Pd] | Pd
product | 6-Methyl-3-(pyridin-3-ylamino)-pyridine-2-carboxylic acid (5-fluoro-pyridin-2-yl)-amide | FC=1C=CC(=NC1)NC(=O)C1=NC(=CC=C1NC=1C=NC=CC1)C | C17H14FN5O
